US08623889B2
Step 2: 6-(1-(tert-butyldimethylsilyloxy)-2,2,2-trifluoroethyl)-4-methylpyridin-3-ylboronic acid
Isopropylmagnesium chloride lithium chloride complex (1.3 mol/L) in THF (0.72 mL, 0.94 mmol) was added to a solution of 5-bromo-2-(1-(tert-butyldimethylsilyloxy)-2,2,2-trifluoroethyl)-4-methylpyridine (120 mg, 0.312 mmol) in THF (1 mL) cooled at −78° C. The reaction mixture was warmed to room temperature and stirred for 1 hour. The mixture was then cooled at −78° C. and triisopropyl borate (0.26 ml, 1.09 mmol) was added. After 5 minutes, the reaction mixture was warmed to room temperature. After 1 hour at room temperature, the reaction was quenched with a few drops of saturated aqueous ammonium chloride solution. The reaction mixture was diluted with ethyl acetate (15 mL) and washed with water (5 ml). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (4 g, silica, 0-10% methanol in dichloromethane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a white solid (40 mg, 37%), which was used in the next step without further purification.

reactant | 5-bromo-2-(1-(tert-butyldimethylsilyloxy)-2,2,2-trifluoroethyl)-4-methylpyridine | 0.312 mmol, 120 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C | C14H21BrF3NOSi
reactant | triisopropyl borate | 1.09 mmol, 0.26 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.94 mmol, 0.72 mL | C1CCOC1 | C4H8O
product | 6-(1-(tert-butyldimethylsilyloxy)-2,2,2-trifluoroethyl)-4-methylpyridin-3-ylboronic acid | 40 mg, 37% | [Si](C)(C)(C(C)(C)C)OC(C(F)(F)F)C1=CC(=C(C=N1)B(O)O)C | C14H23BF3NO3Si
